US08426411B2
Ethyl 4-(dibenzylamino)-2-methylcyclopentanecarboxylate (3.65 g, 10.38 mmol) was dissolved in a mixture of HC; (6 N aqueous, 20 mL) and 1,4-dioxane (50 mL) and the resulting mixture was heated at about 60° C. for about 72 h. The organic solvent was removed under reduced pressure. The aqueous phase was neutralized by the addition of saturated aqueous NaHCO3 (40 mL) and extracted with EtOAc (50 mL). The organic phase was washed with brine (40 mL), dried over anhydrous MgSO4 and coned under reduced pressure to yield 4-(dibenzylamino)-2-methylcyclopentanecarboxylic acid (3.3 g, 98%) as a white amorphous solid: LC/MS (Table 1, Method a) Rt=1.66 min.; MS m/z 324 (M+H)+. The procedure in Step A, Preparation #33 was utilized to provide (1S,2R,4S)-4-(dibenzylamino)-2-methylcyclopentanecarboxylic acid.

reactant | Ethyl 4-(dibenzylamino)-2-methylcyclopentanecarboxylate | 10.38 mmol, 3.65 g | C(C1=CC=CC=C1)N(C1CC(C(C1)C(=O)OCC)C)CC1=CC=CC=C1 | C23H29NO2
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 4-(dibenzylamino)-2-methylcyclopentanecarboxylic acid | 3.3 g, 98% | C(C1=CC=CC=C1)N(C1CC(C(C1)C(=O)O)C)CC1=CC=CC=C1 | C21H25NO2
